US07211578B2
(i) 3-[4-(2-Hydroxyethyl)phenyl]pyridine
1 g (6.8 mmol) of (3-pyridyl)diethylborane, 0.87 ml (10.2 mmol) of 2-(4-bromophenyl)ethanol, 1.53 g (27 mmol) of KOH powder, 1.1 g (3.4 mmol) of tetrabutylammonium bromide and 0.39 g (0.34 mmol) of tetrakis(triphenylphosphine)Pd are mixed in 25 ml of anhydrous THF. The mixture is heated at reflux under a stream of argon for 4 hours. The mixture is poured into water, extraction is carried out with ethyl acetate, the organic phase is dried and the solvent is evaporated. The residue is purified by chromatography on a column of silica gel, elution being carried out with a cyclohexane/ethyl acetate=1/1 mixture, the title product thus being obtained.

reactant | (3-pyridyl)diethylborane | 6.8 mmol, 1 g | N1=CC(=CC=C1)B(CC)CC | C9H14BN
reactant | 2-(4-bromophenyl)ethanol | 10.2 mmol, 0.87 ml | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | KOH | 27 mmol, 1.53 g | [OH-].[K+]
reactant | water | O | H2O
catalyst | tetrabutylammonium bromide | 3.4 mmol, 1.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-(2-Hydroxyethyl)phenyl]pyridine | OCCC1=CC=C(C=C1)C=1C=NC=CC1 | C13H13NO
